US09193693B2
Step 2. 1-(4-Chlorophenyl)piperazine
Trifluoroacetic acid (3 mL) was added dropwise with stiffing at 0° C. to a solution of t-butyl 4-(4-chlorophenyl)piperazine-1-carboxylate (360.6 mg, 1.21 mmol, 1.00 equiv) in dichloromethane (12 mL). The resulting solution was stirred for 3 h at 20° C. in an oil bath. The pH value of the solution was adjusted to 7-8 with a saturated solution of sodium bicarbonate. The resulting solution was extracted with 6×20 mL of dichloromethane, the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 264.5 mg (102%) of 1-(4-chlorophenyl)piperazine as a yellow solid.

reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 4-(4-chlorophenyl)piperazine-1-carboxylate | 1.21 mmol, 360.6 mg, 1.00 equiv | ClC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21ClN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-(4-Chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
